* ============================================================
* XOR v3 Neural Network POST-LAYOUT Co-Simulation
* d_cosim: xor_v3_cosim_top (controller + encoder + sae_control)
* Analog: RRAM 3x5 + 5x2 + 7x WL + 5x ReLU + 2x SA + 7x BL WD
*
* POST-LAYOUT: All analog subcircuits use PEX (parasitic extracted)
* netlists with layout parasitic capacitances included.
*
* Architecture: 3-input / 2-hidden(ReLU) / 2-output XOR
*   Phase 0: Array 1 WLs ON, SL1 driven -> BL1 develops -> ReLU settles
*   Phase 1: Array 2 WLs ON (Array 1 stays ON) -> BL2 develops -> SA latch
*
* Mixed polarity for XOR = AND(OR, NAND):
*   h_OR  (BL0): non-swapped ReLU -> active=OUT HIGH -> inv -> SL LOW
*   h_AND (BL1): swapped ReLU    -> AND inactive=OUT HIGH -> inv -> SL LOW = NAND
*   h2-h4: non-swapped, all-HRS weights -> inactive=OUT LOW -> inv -> SL HIGH
*
* W1 optimized: OR=[LRS,LRS,LRS], AND=[LRS,LRS,HRS], spare=[HRS,HRS,HRS]
*
* Test: all 4 XOR combinations
*   t=100ns   A=0,B=0 -> expect 0
*   t=2000ns  A=0,B=1 -> expect 1
*   t=4000ns  A=1,B=0 -> expect 1
*   t=6000ns  A=1,B=1 -> expect 0
* ============================================================
.title XOR_V3_POSTLAYOUT

** --------------------------------------------------------
** Sky130 PDK device models
** --------------------------------------------------------
.lib $PDK_ROOT/sky130B/libs.tech/ngspice/sky130.lib.spice tt

** --------------------------------------------------------
** RRAM cell model: fixed resistor for READ-only inference
** LRS=7kOhm, HRS=200kOhm
** --------------------------------------------------------
.subckt rram_lrs TE BE
R1 TE BE 7k
.ends rram_lrs
.subckt rram_hrs TE BE
R1 TE BE 200k
.ends rram_hrs

** --------------------------------------------------------
** WL Driver PEX (layout-extracted with parasitic caps)
** --------------------------------------------------------
.subckt wl_driver IN OUT VDD VWL VSS
X0 OUT a_423_138# VSS VSS sky130_fd_pr__nfet_g5v0d10v5 ad=0.58 pd=4.58 as=0.58 ps=4.58 w=2 l=0.5
X1 a_423_138# IN VSS VSS sky130_fd_pr__nfet_g5v0d10v5 ad=0.58 pd=4.58 as=0.58 ps=4.58 w=2 l=0.5
X2 a_342_589# a_57_213# VSS VSS sky130_fd_pr__nfet_g5v0d10v5 ad=0.58 pd=4.58 as=0.58 ps=4.58 w=2 l=0.5
X3 a_57_213# IN VDD VDD sky130_fd_pr__pfet_01v8 ad=0.27 pd=2.54 as=0.27 ps=2.54 w=1 l=0.15
X4 OUT a_423_138# VWL VWL sky130_fd_pr__pfet_g5v0d10v5 ad=1.16 pd=8.58 as=1.16 ps=8.58 w=4 l=0.5
X5 a_57_213# IN VSS VSS sky130_fd_pr__nfet_01v8 ad=0.135 pd=1.54 as=0.135 ps=1.54 w=0.5 l=0.15
X6 a_423_138# a_342_589# VWL VWL sky130_fd_pr__pfet_g5v0d10v5 ad=0.29 pd=2.58 as=0.29 ps=2.58 w=1 l=0.5
X7 a_342_589# a_423_138# VWL VWL sky130_fd_pr__pfet_g5v0d10v5 ad=0.29 pd=2.58 as=0.29 ps=2.58 w=1 l=0.5
* PEX parasitic capacitances
C0 a_342_589# a_423_138# 0.70041f
C1 VWL VDD 0.05883f
C2 a_57_213# VWL 0.02489f
C3 IN VDD 0.16656f
C4 a_57_213# VDD 0.16703f
C5 a_57_213# IN 0.55782f
C6 a_423_138# VWL 0.84921f
C7 OUT a_423_138# 0.21021f
C8 a_342_589# VWL 0.68486f
C9 OUT a_342_589# 0.08293f
C10 a_423_138# IN 0.18049f
C11 a_57_213# a_423_138# 0.30641f
C12 a_342_589# IN 0.09792f
C13 a_342_589# a_57_213# 0.14604f
C14 OUT VWL 0.42619f
C15 OUT VSS 0.8139f
C16 IN VSS 1.18558f
C17 VWL VSS 3.61798f
C18 VDD VSS 1.0221f
C19 a_57_213# VSS 1.02184f
C20 a_342_589# VSS 0.69788f
C21 a_423_138# VSS 1.37012f
.ends wl_driver

** --------------------------------------------------------
** Sense Amplifier PEX (StrongARM with parasitic caps)
** --------------------------------------------------------
.subckt sense_amp SAE INP INN Q QB VDD VSS
X0 Q SAE VDD VDD sky130_fd_pr__pfet_01v8 ad=0.135 pd=1.54 as=0.135 ps=1.54 w=0.5 l=0.15
X1 QB Q VDD VDD sky130_fd_pr__pfet_01v8 ad=0.27 pd=2.54 as=0.27 ps=2.54 w=1 l=0.15
X2 a_15_458# INP a_15_128# VSS sky130_fd_pr__nfet_01v8 ad=0.54 pd=4.54 as=0.54 ps=4.54 w=2 l=0.15
X3 QB SAE Q VDD sky130_fd_pr__pfet_01v8 ad=0.135 pd=1.54 as=0.135 ps=1.54 w=0.5 l=0.15
X4 QB SAE VDD VDD sky130_fd_pr__pfet_01v8 ad=0.135 pd=1.54 as=0.135 ps=1.54 w=0.5 l=0.15
X5 Q QB a_15_458# VSS sky130_fd_pr__nfet_01v8 ad=0.27 pd=2.54 as=0.27 ps=2.54 w=1 l=0.15
X6 a_15_128# SAE VSS VSS sky130_fd_pr__nfet_01v8 ad=0.54 pd=4.54 as=0.54 ps=4.54 w=2 l=0.15
X7 a_273_458# INN a_15_128# VSS sky130_fd_pr__nfet_01v8 ad=0.54 pd=4.54 as=0.54 ps=4.54 w=2 l=0.15
X8 Q QB VDD VDD sky130_fd_pr__pfet_01v8 ad=0.27 pd=2.54 as=0.27 ps=2.54 w=1 l=0.15
X9 QB Q a_273_458# VSS sky130_fd_pr__nfet_01v8 ad=0.27 pd=2.54 as=0.27 ps=2.54 w=1 l=0.15
* PEX parasitic capacitances
C0 Q a_15_458# 0.24163f
C1 SAE a_273_458# 0.07644f
C2 a_15_458# a_15_128# 0.36469f
C3 Q a_273_458# 0.08426f
C4 a_273_458# INN 0.03613f
C5 a_15_458# VDD 0.01121f
C6 a_273_458# a_15_128# 0.33097f
C7 a_273_458# a_15_458# 0.01354f
C8 INP QB 0.05156f
C9 INP SAE 0.02405f
C10 QB SAE 0.24747f
C11 QB Q 0.38342f
C12 Q SAE 0.35776f
C13 INP a_15_128# 0.0278f
C14 SAE INN 0.02397f
C15 QB VDD 0.51592f
C16 INP a_15_458# 0.03615f
C17 QB a_15_458# 0.03053f
C18 Q INN 0.05246f
C19 SAE a_15_128# 0.03438f
C20 SAE VDD 0.81971f
C21 Q a_15_128# 0.02808f
C22 SAE a_15_458# 0.02163f
C23 QB a_273_458# 0.19583f
C24 INN a_15_128# 0.02532f
C25 Q VDD 0.42784f
C26 INN VSS 0.14884f
C27 INP VSS 0.14928f
C28 QB VSS 0.76562f
C29 Q VSS 0.67666f
C30 SAE VSS 0.34133f
C31 VDD VSS 2.2074f
C32 a_15_128# VSS 0.79692f
C33 a_273_458# VSS 0.30597f
C34 a_15_458# VSS 0.38302f
.ends sense_amp

** --------------------------------------------------------
** BL Write Driver PEX (tri-state with parasitic caps)
** --------------------------------------------------------
.subckt bl_write_driver EN DATA BL VDD VSS
X0 a_186_658# a_57_128# VDD VDD sky130_fd_pr__pfet_01v8 ad=1.08 pd=8.54 as=1.08 ps=8.54 w=4 l=0.15
X1 BL a_291_609# a_186_658# VDD sky130_fd_pr__pfet_01v8 ad=1.08 pd=8.54 as=1.08 ps=8.54 w=4 l=0.15
X2 a_57_128# EN VSS VSS sky130_fd_pr__nfet_01v8 ad=0.135 pd=1.54 as=0.135 ps=1.54 w=0.5 l=0.15
X3 a_291_609# DATA VSS VSS sky130_fd_pr__nfet_01v8 ad=0.135 pd=1.54 as=0.135 ps=1.54 w=0.5 l=0.15
X4 a_57_128# EN VDD VDD sky130_fd_pr__pfet_01v8 ad=0.135 pd=1.54 as=0.135 ps=1.54 w=0.5 l=0.15
X5 a_186_128# EN VSS VSS sky130_fd_pr__nfet_01v8 ad=1.08 pd=8.54 as=1.08 ps=8.54 w=4 l=0.15
X6 BL a_291_609# a_186_128# VSS sky130_fd_pr__nfet_01v8 ad=1.08 pd=8.54 as=1.08 ps=8.54 w=4 l=0.15
X7 a_291_609# DATA VDD VDD sky130_fd_pr__pfet_01v8 ad=0.135 pd=1.54 as=0.135 ps=1.54 w=0.5 l=0.15
* PEX parasitic capacitances
C0 EN a_186_128# 0.05031f
C1 EN VDD 0.05564f
C2 BL a_186_128# 0.66998f
C3 EN a_291_609# 0.01405f
C4 BL VDD 0.33153f
C5 BL a_291_609# 0.22857f
C6 a_291_609# a_186_128# 0.04629f
C7 BL a_186_658# 0.66991f
C8 a_291_609# VDD 0.198f
C9 a_186_658# a_186_128# 0.02131f
C10 a_186_658# VDD 0.87262f
C11 a_186_658# a_291_609# 0.04519f
C12 EN a_57_128# 0.18216f
C13 BL a_57_128# 0.04279f
C14 a_57_128# a_186_128# 0.01363f
C15 a_57_128# VDD 0.27201f
C16 a_57_128# a_291_609# 0.07405f
C17 DATA EN 0.02219f
C18 DATA BL 0.02277f
C19 a_186_658# a_57_128# 0.04639f
C20 DATA VDD 0.04801f
C21 DATA a_291_609# 0.07688f
C22 DATA VSS 0.67789f
C23 BL VSS 0.49962f
C24 EN VSS 0.92292f
C25 VDD VSS 3.77546f
C26 a_186_128# VSS 0.9316f
C27 a_186_658# VSS 0.06224f
C28 a_291_609# VSS 0.68274f
C29 a_57_128# VSS 0.52491f
.ends bl_write_driver

** --------------------------------------------------------
** ReLU (5T OTA, layout-extracted)
** Used as analog comparator; output drives CMOS inverter buffer
** --------------------------------------------------------
.subckt relu VBL VREF OUT VBIAS VDD VSS
X0 OUT a_42_709# VDD VDD sky130_fd_pr__pfet_01v8 ad=0.54 pd=4.54 as=0.54 ps=4.54 w=2 l=0.5
X1 OUT VBL a_15_428# VSS sky130_fd_pr__nfet_01v8 ad=0.54 pd=4.54 as=0.54 ps=4.54 w=2 l=0.5
X2 a_42_709# a_42_709# VDD VDD sky130_fd_pr__pfet_01v8 ad=0.54 pd=4.54 as=0.54 ps=4.54 w=2 l=0.5
X3 a_42_709# VREF a_15_428# VSS sky130_fd_pr__nfet_01v8 ad=0.54 pd=4.54 as=0.54 ps=4.54 w=2 l=0.5
X4 a_15_428# VBIAS VSS VSS sky130_fd_pr__nfet_01v8 ad=0.54 pd=4.54 as=0.54 ps=4.54 w=2 l=0.5
.ends relu

** ============================================================
** RRAM Array 1 (3x5): OPTIMIZED W1 for ReLU activation
** ============================================================
** SL0=x1, SL1=x2, SL2=bias(always 1)
** BL0=h_OR, BL1=h_AND, BL2-BL4=unused (all HRS)
**
** Weight matrix W1 (optimized for positive-only + NAND trick):
**        BL0(OR) BL1(AND) BL2  BL3  BL4
** SL0:   LRS     LRS      HRS  HRS  HRS   (x1)
** SL1:   LRS     LRS      HRS  HRS  HRS   (x2)
** SL2:   LRS     HRS      HRS  HRS  HRS   (bias)
** ============================================================
.subckt rram_array_1 BL0 BL1 BL2 BL3 BL4 WL0 WL1 WL2 WL3 WL4 SL0 SL1 SL2 GND
* Row 0 (SL0 = x1): w = [LRS, LRS, HRS, HRS, HRS]
XR00 BL0 n00 rram_lrs
XM00 n00 WL0 SL0 GND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1.5 nf=1 ad=0.435 as=0.435 pd=3.58 ps=3.58
XR01 BL1 n01 rram_lrs
XM01 n01 WL1 SL0 GND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1.5 nf=1 ad=0.435 as=0.435 pd=3.58 ps=3.58
XR02 BL2 n02 rram_hrs
XM02 n02 WL2 SL0 GND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1.5 nf=1 ad=0.435 as=0.435 pd=3.58 ps=3.58
XR03 BL3 n03 rram_hrs
XM03 n03 WL3 SL0 GND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1.5 nf=1 ad=0.435 as=0.435 pd=3.58 ps=3.58
XR04 BL4 n04 rram_hrs
XM04 n04 WL4 SL0 GND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1.5 nf=1 ad=0.435 as=0.435 pd=3.58 ps=3.58
* Row 1 (SL1 = x2): w = [LRS, LRS, HRS, HRS, HRS]
XR10 BL0 n10 rram_lrs
XM10 n10 WL0 SL1 GND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1.5 nf=1 ad=0.435 as=0.435 pd=3.58 ps=3.58
XR11 BL1 n11 rram_lrs
XM11 n11 WL1 SL1 GND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1.5 nf=1 ad=0.435 as=0.435 pd=3.58 ps=3.58
XR12 BL2 n12 rram_hrs
XM12 n12 WL2 SL1 GND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1.5 nf=1 ad=0.435 as=0.435 pd=3.58 ps=3.58
XR13 BL3 n13 rram_hrs
XM13 n13 WL3 SL1 GND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1.5 nf=1 ad=0.435 as=0.435 pd=3.58 ps=3.58
XR14 BL4 n14 rram_hrs
XM14 n14 WL4 SL1 GND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1.5 nf=1 ad=0.435 as=0.435 pd=3.58 ps=3.58
* Row 2 (SL2 = bias, always 1): w = [LRS, HRS, HRS, HRS, HRS]
XR20 BL0 n20 rram_lrs
XM20 n20 WL0 SL2 GND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1.5 nf=1 ad=0.435 as=0.435 pd=3.58 ps=3.58
XR21 BL1 n21 rram_hrs
XM21 n21 WL1 SL2 GND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1.5 nf=1 ad=0.435 as=0.435 pd=3.58 ps=3.58
XR22 BL2 n22 rram_hrs
XM22 n22 WL2 SL2 GND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1.5 nf=1 ad=0.435 as=0.435 pd=3.58 ps=3.58
XR23 BL3 n23 rram_hrs
XM23 n23 WL3 SL2 GND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1.5 nf=1 ad=0.435 as=0.435 pd=3.58 ps=3.58
XR24 BL4 n24 rram_hrs
XM24 n24 WL4 SL2 GND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1.5 nf=1 ad=0.435 as=0.435 pd=3.58 ps=3.58
.ends rram_array_1

** ============================================================
** RRAM Array 2 (5x2): same as before
** SL0=h_OR, SL1=h_AND(NAND via swap), SL2-4=unused
** W2: SL0=[LRS,LRS], SL1=[LRS,LRS], SL2-4=[HRS,HRS]
** ============================================================
.subckt rram_array_2 BL0 BL1 WL0 WL1 SL0 SL1 SL2 SL3 SL4 GND
* Row 0 (SL0 = h_OR): w = [1,1]
XR00 BL0 n00 rram_lrs
XM00 n00 WL0 SL0 GND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1.5 nf=1 ad=0.435 as=0.435 pd=3.58 ps=3.58
XR01 BL1 n01 rram_lrs
XM01 n01 WL1 SL0 GND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1.5 nf=1 ad=0.435 as=0.435 pd=3.58 ps=3.58
* Row 1 (SL1 = h_AND/NAND): w = [1,1]
XR10 BL0 n10 rram_lrs
XM10 n10 WL0 SL1 GND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1.5 nf=1 ad=0.435 as=0.435 pd=3.58 ps=3.58
XR11 BL1 n11 rram_lrs
XM11 n11 WL1 SL1 GND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1.5 nf=1 ad=0.435 as=0.435 pd=3.58 ps=3.58
* Rows 2-4 (unused): w = [0,0]
XR20 BL0 n20 rram_hrs
XM20 n20 WL0 SL2 GND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1.5 nf=1 ad=0.435 as=0.435 pd=3.58 ps=3.58
XR21 BL1 n21 rram_hrs
XM21 n21 WL1 SL2 GND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1.5 nf=1 ad=0.435 as=0.435 pd=3.58 ps=3.58
XR30 BL0 n30 rram_hrs
XM30 n30 WL0 SL3 GND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1.5 nf=1 ad=0.435 as=0.435 pd=3.58 ps=3.58
XR31 BL1 n31 rram_hrs
XM31 n31 WL1 SL3 GND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1.5 nf=1 ad=0.435 as=0.435 pd=3.58 ps=3.58
XR40 BL0 n40 rram_hrs
XM40 n40 WL0 SL4 GND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1.5 nf=1 ad=0.435 as=0.435 pd=3.58 ps=3.58
XR41 BL1 n41 rram_hrs
XM41 n41 WL1 SL4 GND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1.5 nf=1 ad=0.435 as=0.435 pd=3.58 ps=3.58
.ends rram_array_2

** ========================================================
** SIMULATION OPTIONS
** ========================================================
.options reltol=5e-3
.options abstol=1e-10
.options vntol=1e-5
.options gmin=1e-12
.options method=gear

** ========================================================
** POWER SUPPLIES
** ========================================================
VDD  vdd     0 DC 1.8
VWLP vwl_pwr 0 DC 3.3
** VREF for ReLU comparators
VREF   vref_a    0 DC 1.20
** SA2 VREF (set to midpoint of BL swing for PEX SA offset tolerance)
** XOR=1 cases: BL~1.18V, delta=-70mV  |  XOR=0 cases: BL~1.43V, delta=+180mV
VREF20 vref_sa20 0 DC 1.25
VREF21 vref_sa21 0 DC 1.25
** VBIAS for ReLU tail current
VBIAS  vbias_a   0 DC 0.80

** ========================================================
** DIGITAL CLOCK (200MHz = 5ns period)
** ========================================================
A_clk 0 clk_d clkmodel
.model clkmodel d_osc (cntl_array=[-1 1] freq_array=[200Meg 200Meg])

** ========================================================
** COMMAND STIMULUS
** ========================================================
V_rst rst_a 0 PWL(0 0 49n 0 50n 1.8)

V_start start_a 0 PWL(0 0
+   99n 0 100n 1.8 120n 1.8 121n 0
+   1999n 0 2000n 1.8 2020n 1.8 2021n 0
+   3999n 0 4000n 1.8 4020n 1.8 4021n 0
+   5999n 0 6000n 1.8 6020n 1.8 6021n 0)

V_ia ia_a 0 PWL(0 0 3999n 0 4000n 1.8)
V_ib ib_a 0 PWL(0 0 1999n 0 2000n 1.8 3999n 1.8 4000n 0 5999n 0 6000n 1.8)

** ========================================================
** ADC/DAC BRIDGES
** ========================================================
.model adc1 adc_bridge (in_low=0.6 in_high=1.2 rise_delay=0.1n fall_delay=0.1n)
.model dac1 dac_bridge (out_low=0 out_high=1.8 out_undef=0.9
+                       t_rise=0.5n t_fall=0.5n)

A_adc_cmd [rst_a start_a ia_a ib_a]
+         [rst_d start_d ia_d ib_d]
+         adc1

A_adc_sa2q [sa2_q1_a sa2_q0_a]
+          [sa2q1_d sa2q0_d]
+          adc1

** ========================================================
** d_cosim XOR CONTROLLER v3 (Verilator)
** ========================================================
A_ctrl [clk_d rst_d start_d ia_d ib_d
+       sa2q1_d sa2q0_d]
+      [rdy_d rv_d xr_d
+       wl1_4_d wl1_3_d wl1_2_d wl1_1_d wl1_0_d
+       wl2_1_d wl2_0_d
+       phase_d sae_d
+       sl1_2_d sl1_1_d sl1_0_d]
+      null cosim_xor_v3
.model cosim_xor_v3 d_cosim (simulation="./verilog/xor_v3_cosim_top.so" delay=1n)

** ========================================================
** DAC BRIDGES
** ========================================================
A_dac_status [rdy_d rv_d xr_d] [rdy_a rv_a xr_a] dac1
A_dac_wl1 [wl1_4_d wl1_3_d wl1_2_d wl1_1_d wl1_0_d]
+         [wl1_in4 wl1_in3 wl1_in2 wl1_in1 wl1_in0] dac1
A_dac_wl2 [wl2_1_d wl2_0_d] [wl2_in1 wl2_in0] dac1
A_dac_ctrl [phase_d sae_d] [phase_a sae_a] dac1
A_dac_sl1 [sl1_2_d sl1_1_d sl1_0_d] [sl1_en2 sl1_en1 sl1_en0] dac1

** ========================================================
** BL PRECHARGE CONTROL
** ========================================================
A_or_wl1 [wl1_4_d wl1_3_d wl1_2_d wl1_1_d wl1_0_d] wl1_on_d d_or5_model
.model d_or5_model d_or (rise_delay=0.1n fall_delay=0.1n input_load=1e-15)
A_dac_prech1 [wl1_on_d] [prech1_a] dac1

A_or_wl2 [wl2_1_d wl2_0_d] wl2_on_d d_or2_model
.model d_or2_model d_or (rise_delay=0.1n fall_delay=0.1n input_load=1e-15)
A_prech2_gate [wl2_on_d phase_d] prech2_d d_and2_model
.model d_and2_model d_and (rise_delay=0.1n fall_delay=0.1n input_load=1e-15)
A_dac_prech2 [prech2_d] [prech2_a] dac1

A_sae2_gate [sae_d phase_d] sae2_d d_and4_model
.model d_and4_model d_and (rise_delay=0.1n fall_delay=0.1n input_load=1e-15)
A_dac_sae2 [sae2_d] [sae2_a] dac1

** ========================================================
** ANALOG SIGNAL CHAIN — ARRAY 1 (Layer 1: 3x5)
** ========================================================

** WL Drivers for Array 1 (5x)
x_wld1_0 wl1_in0 wl1_0 vdd vwl_pwr 0 wl_driver
x_wld1_1 wl1_in1 wl1_1 vdd vwl_pwr 0 wl_driver
x_wld1_2 wl1_in2 wl1_2 vdd vwl_pwr 0 wl_driver
x_wld1_3 wl1_in3 wl1_3 vdd vwl_pwr 0 wl_driver
x_wld1_4 wl1_in4 wl1_4 vdd vwl_pwr 0 wl_driver

** BL Precharge for Array 1
XMP_pre1_0 a1_bl0 prech1_a vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1
+ ad=0.58 as=0.58 pd=4.58 ps=4.58
XMP_pre1_1 a1_bl1 prech1_a vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1
+ ad=0.58 as=0.58 pd=4.58 ps=4.58
XMP_pre1_2 a1_bl2 prech1_a vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1
+ ad=0.58 as=0.58 pd=4.58 ps=4.58
XMP_pre1_3 a1_bl3 prech1_a vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1
+ ad=0.58 as=0.58 pd=4.58 ps=4.58
XMP_pre1_4 a1_bl4 prech1_a vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1
+ ad=0.58 as=0.58 pd=4.58 ps=4.58

** BL Parasitic Capacitance Array 1 (20pF)
C_a1_bl0 a1_bl0 0 20p
C_a1_bl1 a1_bl1 0 20p
C_a1_bl2 a1_bl2 0 20p
C_a1_bl3 a1_bl3 0 20p
C_a1_bl4 a1_bl4 0 20p

** SL Ground Switches + Pull-up for Array 1
XMN_sl1_0 a1_sl0 sl1_en0 0 0 sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=1
+ ad=2.9 as=2.9 pd=20.58 ps=20.58
XMN_sl1_1 a1_sl1 sl1_en1 0 0 sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=1
+ ad=2.9 as=2.9 pd=20.58 ps=20.58
XMN_sl1_2 a1_sl2 sl1_en2 0 0 sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=1
+ ad=2.9 as=2.9 pd=20.58 ps=20.58
XMP_slpu1_0 a1_sl0 sl1_en0 vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1
+ ad=0.58 as=0.58 pd=4.58 ps=4.58
XMP_slpu1_1 a1_sl1 sl1_en1 vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1
+ ad=0.58 as=0.58 pd=4.58 ps=4.58
XMP_slpu1_2 a1_sl2 sl1_en2 vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1
+ ad=0.58 as=0.58 pd=4.58 ps=4.58

** BL Write Drivers for Array 1 (disabled)
x_blw1_0 0 0 a1_bl0 vdd 0 bl_write_driver
x_blw1_1 0 0 a1_bl1 vdd 0 bl_write_driver
x_blw1_2 0 0 a1_bl2 vdd 0 bl_write_driver
x_blw1_3 0 0 a1_bl3 vdd 0 bl_write_driver
x_blw1_4 0 0 a1_bl4 vdd 0 bl_write_driver

** RRAM 3x5 Array 1
x_rram1 a1_bl0 a1_bl1 a1_bl2 a1_bl3 a1_bl4
+        wl1_0 wl1_1 wl1_2 wl1_3 wl1_4
+        a1_sl0 a1_sl1 a1_sl2 0 rram_array_1

** ========================================================
** ReLU ACTIVATION + CMOS INVERTER BUFFER (Layer 1 -> Layer 2)
** ========================================================

** h_OR (BL0): non-swapped (VBL=BL, VREF=VREF_source)
x_relu_0 a1_bl0 vref_a relu_raw0 vbias_a vdd 0 relu

** h_AND (BL1): swapped (VBL=VREF_source, VREF=BL)
x_relu_1 vref_a a1_bl1 relu_raw1 vbias_a vdd 0 relu

** h2-h4: non-swapped (all-HRS weights, BL never discharges)
x_relu_2 a1_bl2 vref_a relu_raw2 vbias_a vdd 0 relu
x_relu_3 a1_bl3 vref_a relu_raw3 vbias_a vdd 0 relu
x_relu_4 a1_bl4 vref_a relu_raw4 vbias_a vdd 0 relu

** CMOS Inverter Buffers for Array 2 SL drive
XMN_sd0 a2_sl0 relu_raw0 0 0 sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=1
+ ad=2.9 as=2.9 pd=20.58 ps=20.58
XMP_sd0 a2_sl0 relu_raw0 vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=4 nf=1
+ ad=1.16 as=1.16 pd=8.58 ps=8.58

XMN_sd1 a2_sl1 relu_raw1 0 0 sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=1
+ ad=2.9 as=2.9 pd=20.58 ps=20.58
XMP_sd1 a2_sl1 relu_raw1 vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=4 nf=1
+ ad=1.16 as=1.16 pd=8.58 ps=8.58

XMN_sd2 a2_sl2 relu_raw2 0 0 sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=1
+ ad=2.9 as=2.9 pd=20.58 ps=20.58
XMP_sd2 a2_sl2 relu_raw2 vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=4 nf=1
+ ad=1.16 as=1.16 pd=8.58 ps=8.58

XMN_sd3 a2_sl3 relu_raw3 0 0 sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=1
+ ad=2.9 as=2.9 pd=20.58 ps=20.58
XMP_sd3 a2_sl3 relu_raw3 vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=4 nf=1
+ ad=1.16 as=1.16 pd=8.58 ps=8.58

XMN_sd4 a2_sl4 relu_raw4 0 0 sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=1
+ ad=2.9 as=2.9 pd=20.58 ps=20.58
XMP_sd4 a2_sl4 relu_raw4 vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=4 nf=1
+ ad=1.16 as=1.16 pd=8.58 ps=8.58

** ========================================================
** ANALOG SIGNAL CHAIN — ARRAY 2 (Layer 2: 5x2)
** ========================================================

** WL Drivers for Array 2 (2x)
x_wld2_0 wl2_in0 wl2_0 vdd vwl_pwr 0 wl_driver
x_wld2_1 wl2_in1 wl2_1 vdd vwl_pwr 0 wl_driver

** BL Precharge for Array 2
XMP_pre2_0 a2_bl0 prech2_a vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1
+ ad=0.58 as=0.58 pd=4.58 ps=4.58
XMP_pre2_1 a2_bl1 prech2_a vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1
+ ad=0.58 as=0.58 pd=4.58 ps=4.58

** BL Parasitic Capacitance Array 2 (20pF)
C_a2_bl0 a2_bl0 0 20p
C_a2_bl1 a2_bl1 0 20p

** BL Write Drivers for Array 2 (disabled)
x_blw2_0 0 0 a2_bl0 vdd 0 bl_write_driver
x_blw2_1 0 0 a2_bl1 vdd 0 bl_write_driver

** RRAM 5x2 Array 2 (SL driven by inverter buffers)
x_rram2 a2_bl0 a2_bl1 wl2_0 wl2_1
+        a2_sl0 a2_sl1 a2_sl2 a2_sl3 a2_sl4 0 rram_array_2

** Sense Amplifiers for Array 2 (2x)
x_sa2_0 sae2_a a2_bl0 vref_sa20 sa2_q0_a sa2_qb0_a vdd 0 sense_amp
x_sa2_1 sae2_a a2_bl1 vref_sa21 sa2_q1_a sa2_qb1_a vdd 0 sense_amp

** ========================================================
** SIMULATION CONTROL
** ========================================================
.control
save all
tran 1n 8000n

echo ""
echo "=============================================="
echo "XOR v3 Post-Layout Co-Sim (PEX parasitics)"
echo "=============================================="
echo ""

echo "--- Test 1: A=0, B=0 -> expect XOR=0 ---"
meas tran rv1_t WHEN v(rv_a)=0.9 RISE=1
meas tran xr1 FIND v(xr_a) WHEN v(rv_a)=0.9 RISE=1

echo ""
echo "--- Test 2: A=0, B=1 -> expect XOR=1 ---"
meas tran rv2_t WHEN v(rv_a)=0.9 RISE=2
meas tran xr2 FIND v(xr_a) WHEN v(rv_a)=0.9 RISE=2

echo ""
echo "--- Test 3: A=1, B=0 -> expect XOR=1 ---"
meas tran rv3_t WHEN v(rv_a)=0.9 RISE=3
meas tran xr3 FIND v(xr_a) WHEN v(rv_a)=0.9 RISE=3

echo ""
echo "--- Test 4: A=1, B=1 -> expect XOR=0 ---"
meas tran rv4_t WHEN v(rv_a)=0.9 RISE=4
meas tran xr4 FIND v(xr_a) WHEN v(rv_a)=0.9 RISE=4

echo ""
echo "=============================================="

wrdata xor_v3_postlayout.csv
+ v(rdy_a) v(rv_a) v(xr_a) v(phase_a) v(sae_a) v(start_a)
+ v(a1_bl0) v(a1_bl1) v(a1_bl2) v(a1_bl3) v(a1_bl4)
+ v(relu_raw0) v(relu_raw1) v(relu_raw2) v(relu_raw3) v(relu_raw4)
+ v(a2_sl0) v(a2_sl1) v(a2_sl2)
+ v(a2_bl0) v(a2_bl1)
+ v(sa2_q0_a) v(sa2_q1_a)
+ v(ia_a) v(ib_a)
+ v(prech1_a) v(prech2_a) v(sae2_a)

.endc
.end
